US05952321
Step B: (S)-(-)-N-Carbobenzyloxy-α-methyl-4-nitrobenzylamine
To a solution of (S)-(-)-α-methyl-4-nitrobenzylamine hydrochloride (7.96 gm, 48 mmol) in acetone (20 mL) was added 5N sodium hydroxide (10 mL, 50 imol) and the solution was cooled in an ice bath. Solutions of benzylchloroformate (9.8 mL, 53 mmol) in acetone (10 mL) and 5N sodium hydroxide (11 mL, 55 mmol) were simultaneously added over 0.5 hr and the reaction was then allowed to warm to rt over 16 hrs. The reaction was poured into a mixture of ice water and ether and the layers were separated. The ether layer was washed with water and brine and the aqueous layers were consecutively extracted with a second portion of ether. The pooled ether layers were dried over sodium sulfate and evaporated to give 14.3 gm (quantitative) of clean title compound which was used without purification.

reactant | (S)-(-)-α-methyl-4-nitrobenzylamine hydrochloride | 48 mmol, 7.96 gm | Cl.C[C@@H](C1=CC=C(C=C1)[N+](=O)[O-])N
reactant | sodium hydroxide | 5N, 10 mL | [OH-].[Na+]
reactant | benzylchloroformate | 53 mmol, 9.8 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 55 mmol, 5N, 11 mL | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (S)-(-)-N-Carbobenzyloxy-α-methyl-4-nitrobenzylamine | C(=O)(OCC1=CC=CC=C1)N[C@H](C1=CC=C(C=C1)[N+](=O)[O-])C | C16H16N2O4
